US06194409B1
107d. 1-(2-(R)-Methanesulfonylamino-3-phenyl-propionyl)-pyrrolidin-2-(S)-carboxylic acid benzyl ester
reaction of 0.65 g of 2-(R)-methanesulfonylamino-3-phenyl-propionic acid and 0.66 g of (L)-proline benzyl ester hydrochloride using the procedure described for example xib yielded 0.88 g (75%) of the title compound as a yellow oil. (+)-APCI-MS: 431 (MH+).

reactant | 2-(R)-methanesulfonylamino-3-phenyl-propionic acid | 0.65 g | CS(=O)(=O)N[C@@H](C(=O)O)CC1=CC=CC=C1 | C10H13NO4S
reactant | (L)-proline benzyl ester hydrochloride | 0.66 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
product | 1-(2-(R)-Methanesulfonylamino-3-phenyl-propionyl)-pyrrolidin-2-(S)-carboxylic acid benzyl ester | 0.88 g, 75% | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=CC=C1)NS(=O)(=O)C)=O | C22H26N2O5S
